US04014677
111 g (0.5 mole) of 2-ethyl-4,6-dichloro-5-nitro-pyrimidine are reacted with 59.1 g (1.0 mole) of isopropylamine. To yield 97 g of 2-ethyl-6-isopropylamino-5-nitro-4-chloro-pyrimidine of m.p. 51°-52° C.

reactant | 2-ethyl-4,6-dichloro-5-nitro-pyrimidine | 0.5 mole, 111 g | C(C)C1=NC(=C(C(=N1)Cl)[N+](=O)[O-])Cl | C6H5Cl2N3O2
reactant | isopropylamine | 1.0 mole, 59.1 g | C(C)(C)N | C3H9N
product | 2-ethyl-6-isopropylamino-5-nitro-4-chloro-pyrimidine | 97 g | C(C)C1=NC(=C(C(=N1)Cl)[N+](=O)[O-])NC(C)C | C9H13ClN4O2
